US09428456B2
(2.001 b): 4-Chloro-N-(3-formyl-phenyl)-benzamide
A solution of 4-chloro-N-(3-[1,3]dioxolan-2-yl-phenyl)-benzamide (14.33 g, 47.2 mmol) in 1,4-dioxane (120 mL) is treated with 1N aq. HCl (120 mL) at RT for 1 h then at 60° C. for 30 min. The reaction mixture is cooled down to RT and diluted with ethyl acetate (100 mL). The organic phase is separated and the aqueous phase is extracted twice with ethyl acetate (100 mL). The combined organic phases are washed with brine (200 mL) and dried over MgSO4. After evaporation of the organic solvents the residue is triturated with diethyl ether to give the title compound (10.34 g, 84%) as a beige powder; LC-MS B: tR=0.83 min; [M+H]+=259.82.

reactant | 4-chloro-N-(3-[1,3]dioxolan-2-yl-phenyl)-benzamide | 47.2 mmol, 14.33 g | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)C2OCCO2)C=C1 | C16H14ClNO3
reactant | HCl | 1N, 120 mL | Cl | ClH
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-N-(3-formyl-phenyl)-benzamide | 10.34 g, 84% | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)C=O)C=C1 | C14H10ClNO2
